US03978071
A mixture of 47 g of ethyl 2-[4-(chloroacetyl)phenyl]propionate, 100 ml of ethanol and 30 g of 2-aminopyridine is heated under reflux for 2 hours. The ethanol is distilled off under reduced pressure, and water is added to the residue. The mixture is extracted with benzene, and the extract is washed with water, dried and concentrated to give a reddish brown oil. To the oil is added isopropyl ether, and the crystalline precipitate is filtered off and recrystallized from isopropyl ether to give 22 g of ethyl 2-[4-(imidazo[1,2-a]pyridin-2-yl)phenyl]propionate as colorless scales melting at 110°-112°C.

reactant | ethyl 2-[4-(chloroacetyl)phenyl]propionate | 47 g | ClCC(=O)C1=CC=C(C=C1)C(C(=O)OCC)C | C13H15ClO3
reactant | 2-aminopyridine | 30 g | NC1=NC=CC=C1 | C5H6N2
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 2-[4-(imidazo[1,2-a]pyridin-2-yl)phenyl]propionate | 22 g | N=1C(=CN2C1C=CC=C2)C2=CC=C(C=C2)C(C(=O)OCC)C | C18H18N2O2
